US08193199B2
A mixture of (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione (0.2000 g, 0.539 mmol), 3-(trifluoromethyl)pyrazole (0.0733 g, 0.539 mmol), cesium carbonate (0.351 g, 1.08 mmol) and in DMF (1.80 mL, 0.539 mmol) was stirred at 100° C. After 2 h, The mixture was cooled to room temperature. To the cooled mixture was added water (30 mL). The mixture was extracted with EtOAc (50 mL×2). The combined organic layers were washed with brine (50 mL×1), dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 10% gradient of EtOAc in hexane over 10 min, then 10% isocratic of EtOAc for 10 min, then 10 to 50% gradient of EtOAc in hexane over 20 min, then 50% isocratic of EtOAc for 10 min as eluent to give 2-((S)-1-(8-chloro-2-(3-(trifluoromethyl)-1H-pyrazol-1-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione as a yellow syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.05 (1H, s), 8.51 (1H, d, J=2.2 Hz), 8.25 (1H, dd, J=8.4, 1.0 Hz), 8.08 (1H, dd, J=7.7, 0.9 Hz), 7.63-7.85 (5H, m), 6.92 (1H, d, J=2.7 Hz), 5.94-6.05 (1H, m), 1.83 (3H, d, J=7.0 Hz); LC-MS (ESI) m/z 471.1 [M+H]+.

reactant | (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 0.539 mmol, 0.2000 g | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)Cl | C19H12Cl2N2O2
reactant | 3-(trifluoromethyl)pyrazole | 0.539 mmol, 0.0733 g | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | cesium carbonate | 1.08 mmol, 0.351 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 0.539 mmol, 1.80 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 2-((S)-1-(8-chloro-2-(3-(trifluoromethyl)-1H-pyrazol-1-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)N1N=C(C=C1)C(F)(F)F)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C23H14ClF3N4O2
